US05952386
A mixture of 1.0 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-bromobutyloxy)benzene, 4 ml of 40% methanol solution of methylamine, 0.33 g of potassium carbonate and N,N-dimethylformamide was stirred at room temperature for 24 hours. To the reaction mixture was added 100 ml of saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with 100 ml of ethyl acetate. The ethyl acetate layer was successively washed with 100 ml of saturated sodium hydrogen carbonate and saturated saline solution, dried over anhydrous magnesium sulfate, and then concentrated, which afforded 0.80 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(methylamino)butyloxy)benzene (89% yield), nD26.0 1.5545.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-bromobutyloxy)benzene | 1.0 g | ClC=1C=C(C=C(C1OCCCCBr)Cl)OCC=C(Cl)Cl | C13H13BrCl4O2
reactant | methylamine | CN | CH5N
reactant | potassium carbonate | 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | 4 ml | CO | CH4O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(methylamino)butyloxy)benzene | 0.80 g, 89% yield | ClC=1C=C(C=C(C1OCCCCNC)Cl)OCC=C(Cl)Cl | C14H17Cl4NO2
